US04740622
Preparation of 5-methylamino-2-(β-hydroxyethoxy)-4-nitrophenol
A mixture consisting of 0.115 mol (28.2 g) of 4,5-dinitro-2-(β-hydroxyethoxy)phenol, prepared in Example 3, in 300 ml of a 33% strength solution of methylamine in absolute ethanol and 100 ml of formamide is heated to 95° C. for 6 hours in an autoclave (pressure 5-6 kg/cm2). After the reaction mixture has been cooled, the expected product crystallizes. It is recrystallized from formamide. It melts at 210° C.

reactant | 4,5-dinitro-2-(β-hydroxyethoxy)phenol | 0.115 mol, 28.2 g | [N+](=O)([O-])C1=CC(=C(C=C1[N+](=O)[O-])O)OCCO | C8H8N2O7
reactant | methylamine | CN | CH5N
solvent | ethanol | C(C)O | C2H6O
solvent | formamide | 100 ml | C(=O)N | CH3NO
product | 5-methylamino-2-(β-hydroxyethoxy)-4-nitrophenol | CNC=1C(=CC(=C(C1)O)OCCO)[N+](=O)[O-] | C9H12N2O5
